US08222416B2
A mixture of 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (0.24 g, 0.47 mmol) in ethanol (2 mL), tetrahydrofuran (2 mL) and an aqueous sodium hydroxide solution (10%, 1 mL) was heated at 50° C. for 2 h. The mixture diluted with dichloromethane (50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded (Z)-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (130 mg, 75%): LC/MS m/e calcd for C20H20N2O3S [M+H]+ 369.46, observed 369.3; and (E)-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (5 mg, 2%): LC/MS m/e calcd for C20H20N2O3S [M+H]+ 369.46, observed 369.3; 1H NMR (400 MHz, CD3OD) δ ppm 8.28 (d, J=5.1 Hz, 1H), 8.20 (d, J=7.8 Hz, 1H), 8.07-8.11 (m, J=8.3 Hz, 2H), 7.61-7.66 (m, J=8.1 Hz, 2H), 7.29-7.34 (m, 1H), 6.59 (d, J=9.1 Hz, 1H), 6.15 (s, 1H), 4.24 (q, J=7.4 Hz, 1H), 3.98 (q, J=7.0 Hz, 1H), 3.75-3.81 (m, 1H), 3.23 (s, 3H), 2.05-2.15 (m, 2H), 1.80-1.99 (m, 2H).

reactant | 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.47 mmol, 0.24 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2OCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C26H24N2O5S2
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (Z)-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-furan-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 130 mg, 75% | CS(=O)(=O)C1=CC=C(C=C1)/C(=C/C1OCCC1)/C1=CC=2C(=NC=CC2)N1 | C20H20N2O3S
